US03931199
15 g of potassium permanganate is added in small portions to a solution of 11 g of 1(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)-2-methyl-1-propanol in 200 ml of acetone, while the temperature is kept at 10°C. Then the mixture is allowed to stand at 20°C for 1 hour. The reaction mixture is filtered, and the crystalline residue is washed with chloroform. The filtrate and washings are concentrated, and the residue is purified by column chromatography on silica gel with chloroform as eluent, and further by recrystallization from ethanol to give 1-(5-oxo-5H-[1]-benzopyrano[2,3-b]-pyridin-7-yl)-2-methyl-1-propanol melting at 160°C.

reactant | potassium permanganate | 15 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 1(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)-2-methyl-1-propanol | 11 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(C)C)O | C16H17NO2
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-(5-oxo-5H-[1]-benzopyrano[2,3-b]-pyridin-7-yl)-2-methyl-1-propanol | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(C(C)C)O | C16H15NO3
